US09290485B2
A suspension of methyl 4-(bromomethyl)-3-methoxybenzoate (400 mg, 1.544 mmol) and 1H-pyrazole (105 mg, 1.544 mmol) and K2CO3 (533 mg, 3.86 mmol) in DMF (5 ml) was stirred for 3.5 h at rt. A saturated solution of NaHCO3 was added and the mixture was extracted with ethyl acetate. The combined organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude Methyl 4-((1H-pyrazol-1-yl)methyl)-3-methoxybenzoate. MS [M+H]+=247.

reactant | methyl 4-(bromomethyl)-3-methoxybenzoate | 1.544 mmol, 400 mg | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | 1H-pyrazole | 1.544 mmol, 105 mg | N1N=CC=C1 | C3H4N2
reactant | K2CO3 | 3.86 mmol, 533 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Methyl 4-((1H-pyrazol-1-yl)methyl)-3-methoxybenzoate | N1(N=CC=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C13H14N2O3
